US06617341B1
N-(5-Chloro-4-trifluoromethylthiazol-2-yl)-3-chlorobenzamide (15.5 g was mixed with phosphorous pentachloride (9.5 g) and phosphorous oxychloride (60 ml) and the mixture was refluxed for 12 hr. The excess phosphorous oxychloride was removed under reduced pressure and the residue was mixed with cold water then extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure then the residue was recrystallized from n-hexane to give N-(5-chloro-4-trifluoromethylthiazol-2-yl)-3-chlorobenzimidoyl chloride; as pale brown needles (11.0 g), m. p. 89-90° C.

reactant | N-(5-Chloro-4-trifluoromethylthiazol-2-yl)-3-chlorobenzamide | ClC1=C(N=C(S1)NC(C1=CC(=CC=C1)Cl)=O)C(F)(F)F | C11H5Cl2F3N2OS
reactant | phosphorous pentachloride | 9.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorous oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-(5-chloro-4-trifluoromethylthiazol-2-yl)-3-chlorobenzimidoyl chloride | ClC1=C(N=C(S1)N=C(C1=CC(=CC=C1)Cl)Cl)C(F)(F)F | C11H4Cl3F3N2S
